US05994356
(31) 1-(4-Methoxycarbonylmethyloxyphenyl)-4-[(piperidin-4-yl)-N-methylmethylamino]piperidine dihydrochloride
Prepared from 4-[(1-tert-butyloxycarbonylpiperidin-4-yl)-N-methylmethylamino]-1-(4-methoxycarbonylmethyloxyphenyl)piperidine and ethereal hydrochloric acid.

reactant | 4-[(1-tert-butyloxycarbonylpiperidin-4-yl)-N-methylmethylamino]-1-(4-methoxycarbonylmethyloxyphenyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C)C1CCN(CC1)C1=CC=C(C=C1)OCC(=O)OC | C26H41N3O5
reactant | hydrochloric acid | Cl | ClH
product | 1-(4-Methoxycarbonylmethyloxyphenyl)-4-[(piperidin-4-yl)-N-methylmethylamino]piperidine dihydrochloride | Cl.Cl.COC(=O)COC1=CC=C(C=C1)N1CCC(CC1)N(C)CC1CCNCC1 | InChI=1S/C21H33N3O3.2ClH/c1-23(15-17-7-11-22-12-8-17)18-9-13-24(14-10-18)19-3-5-20(6-4-19)27-16-21(25)26-2;;/h3-6,17-18,22H,7-16H2,1-2H3;2*1H
